Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
motor vehicle accident
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ year old male who was transferred from OSH 
for abnormal CT, Lower back pain. ___ male in the 
emergency department as a trauma basic. Patient was an 
unrestrained driver involved in a T-bone MVC 4 days ago. 
Positive head strike. No loss of consciousness. Ambulatory at 
the scene. Complaining of lower back pain and abdominal pain. 
Seen at an outside hospital today where CTA showed concern for 
active extrav to possible retroperitoneal bleed. Given vitamin K 
5 mg IV and transferred here for further care.
 
Past Medical History:
COPD, PAD, DVT on Coumadin, anxiety/panic attacks

PSurgHx: R fem-pop bypass.
 
Social History:
___
Family History:
not pertinent
 
Physical Exam:
Gen: NAD, AxOx3
Card: HDS
Pulm: no respiratory distress
Abd: Soft, non-tender, non-distended, normal bs.  There is
fullness on palpation of the RLQ.  
Ext: No edema, warm well-perfused
 
Pertinent Results:
___ Second Opinion Read of CT Torso on ___: 
1. Thickening of the cecum and terminal/distal ileum. 
Ill-defined region of stranding/soft tissue thickening seen 
between the right psoas muscle and posterior to the cecum which 
appears to heterogeneously enhanced on venous images, of unclear 
etiology. Differential diagnosis includes inflammatory process 
related to the cecal thickening and there are multiple small 
lymph nodes/nodularity. Underlying associated hemorrhage not 
excluded. The size of this region of stranding/soft tissue 
thickening has not significantly changed from the prior CT 20 
hours prior. Appendix not seen separate from this, correlate 
with concern for appendicitis. Complex tender repeat study with 
long oral contrast prep. 
2. 7 mm arterial enhancing focus in the spleen which is less 
conspicuous on venous imaging, could represent a small 
pseudoaneurysm or AVM. 11 mm arterial enhancing focus more 
posterior in the spleen is nonspecific, possibly hemangioma or 
AVM. 

CT C Spine on ___: 
1. No acute fracture or dislocation of the cervical spine.

___ 04:20PM BLOOD WBC-13.0* RBC-4.56* Hgb-10.5* Hct-35.2* 
MCV-77* MCH-23.0* MCHC-29.8* RDW-15.9* RDWSD-44.5 Plt ___
___ 06:02AM BLOOD WBC-11.7* RBC-4.41* Hgb-10.0* Hct-33.7* 
MCV-76* MCH-22.7* MCHC-29.7* RDW-15.9* RDWSD-44.0 Plt ___
___ 01:12PM BLOOD WBC-12.6* RBC-4.38* Hgb-10.1* Hct-33.5* 
MCV-77* MCH-23.1* MCHC-30.1* RDW-15.9* RDWSD-44.0 Plt ___
___ 06:10AM BLOOD WBC-12.6* RBC-4.30* Hgb-9.7* Hct-33.1* 
MCV-77* MCH-22.6* MCHC-29.3* RDW-15.9* RDWSD-43.8 Plt ___
 
Brief Hospital Course:
Patient arrived as basic trauma to ED as a transfer from OSH 
given findings as discussed in the HPI. Review of OSH imaging by 
radiology team at ___ with concern for inflammatory process 
with cecal thickening and nodularity as per radiology report. GI 
consult placed with recommendations for outpatient colonoscopy 
as arranged by PCP and repeat CT abdomen/pelvis with PO and IV 
contrast in 6 weeks to assess for interval change in these 
inflammatory findings. Serial H/H monitored showing stable H/H. 
Coumadin restarted on ___. Last INR 1.3 on ___. Given 
indication for anticoagulation decision made to discharge 
patient on ___ with plan for follow up at his 
___ clinic. Tertiary survey performed without any traumatic 
injury noted. Patient discharged in good condition on ___. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. TraZODone 300 mg PO QHS 
2. Warfarin 2 mg PO DAILY16 
3. ALPRAZolam 1 mg PO TID:PRN naxiety 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB,wheezing 
5. Atorvastatin 40 mg PO QPM 
6. Gabapentin 300 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Motor vehicle accident

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital after a motor vehicle accident 
several days ago. There was an imaging finding that was 
concerning for inflammation or mass in the bowel that will 
require further outpatient work up. Your Coumadin was held for a 
concern of bleeding, but your blood levels have been stable and 
you may resume your Coumadin as per your normal home routine. 
Please follow these instructions:
-You should schedule outpatient screening colonoscopy with your 
PCP in the coming weeks. You will also need a scan "CT 
abdomen/pelvis with oral and IV contrast" in 6 weeks. This will 
be scheduled for you at ___, but you may also ask your PCP to 
schedule ___ scan for you closer to home if you prefer. 
-Your INR is below the therapeutic level and you will need to 
take Lovenox injections for 5 days to thin your blood while the 
Coumadin levels are coming back up. Continue to take your daily 
dose of Coumadin while taking Lovenox injections. You should 
follow up in your ___ clinic at ___ in 5 days to 
re-check your INR and dose your Coumadin appropriately. 
-Keep an eye out for signs of bleeding - new/worsening fatigue, 
bloody stools, dark/tarry stools, new/worsening shortness of 
breath. If you have any of these symptoms be sure to call your 
doctor or go to the ED.
-You had no traumatic injury from your motor vehicle accident. 
You may resume your home activities as tolerated. 

Please see below for our standard recommendations for patients 
discharged on Lovenox:
You will be discharged home on Lovenox injections to prevent 
blood clots. Please follow all nursing teaching instruction 
given by the nursing staff. Please monitor for any signs of 
bleeding: fast heart rate, bloody bowel movements, abdominal 
pain, bruising, feeling faint or weak. If you have any of these 
symptoms please call our office or seek medical attention. Avoid 
any contact activity while taking Lovenox. Please take extra 
caution to avoid falling.
 
Followup Instructions:
___